Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms ___ is a ___ woman with a past medical history of
hypertension, hyperlipidemia, and hypothyroidism, who is
presenting with elevated LFTs and pancreatic mass on ultrasound.
Per patient and her daughter who is at bedside, first started to
notice patient with increased fatigue around 6 months ago.  This
was attributed to the fact that she is caring for her husband 
who
has ___.  However over the past months she is also had
weight loss of 10 pounds, poor appetite, and increased diarrhea. 

She has not had any fever, chills, or night sweats.  She was 
seen
by her PCP, who had some lab work done.  Lab work was concerning
for elevated LFTs.  An ultrasound was also concerning for 
biliary
obstruction.  Therefore she was referred to the ___ ED for
further workup.

Of note, patient is primary caretaker of her husband who has
___ dementia.  States that he is generally independent 
in
most ADLs.  He is currently ___ alone.

 
Past Medical History:
- hypertension
- hypothyroidism
- hypercholesterolemia 
 
Social History:
___
Family History:
- mother - MI age ___
- father - stroke
- son - hypertension
- daughter - ___
 
 
Physical ___:
Admission physical exam: 
VITALS: 98.1, HR 62, BP 143/73, RR 18, 95% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, mildly tender to deep palpation, especially in
righ upper quadrant and right flank
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge physical exam: 
GENERAL: Alert and in no apparent distress
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs

 
Pertinent Results:
___ 07:32AM BLOOD ALT-316* AST-157* AlkPhos-629* 
TotBili-1.6*
___ 08:13AM BLOOD ALT-388* AST-241* AlkPhos-706* 
TotBili-1.8*
 
Brief Hospital Course:
___ w/ hx of HTN, hypothyroidism who p/w abdominal pain, N/V and 
found to have LFT abnormality and CT evidence of 4.1 x 2.7 cm 
hypodense lesion at the pancreatic head neck junction as well as 
Multiple pulmonary nodules are visualized in the bilateral lung 
bases, concerning for metastatic disease. She was evaluated by 
GI who performed an ERCP w/ biopsy on ___. Pathology report 
from the biopsy is currently pending. Post-ERCP she tolerated PO 
and her symptoms were well controlled with minimal medical 
therapy. Her LFT abnormalities is improving. She is being 
discharged ___ with close PCP ___ and plan to ___ 
with GI regarding pathology report. 

Pancreatic mass 
- S/p ERCP
- Pathology pending 
- Tylenol PRN pain 

HTN 
- Start amlodipine 5mg daily
- Cont ___ metoprolol
- Holding ___ HCTZ-spironolactone given poor PO intake, risk 
for dehydration. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Spironolactone 25 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain  
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  FLUoxetine 40 mg PO DAILY  
5.  Levothyroxine Sodium 50 mcg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
___ With Service
 
Facility:
___
 
Discharge Diagnosis:
Pancreatic mass
Abdominal pain
Essential hypertension 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for abdominal pain and found to have 
abnormal liver tests and a mass in your hepatobiliary system. 
You underwent a procedure called ERCP and biopsy were taken at 
that time. The final pathology report for your biopsy is 
currently pending. 

Since you were tolerating food and your liver function tests 
were improving, you were deemed stable for discharge ___ with 
outpatient ___. You should ___ the final pathology 
report and ___ with your PCP. 
 
Followup Instructions:
___